US08937150B2
di-tert-butyl (2S,2′S)-2,2′-{[(1S,4S)-1,4-dihydroxybutane-1,4-diyl]bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)}dipyrrolidine-1-carboxylate (ACD Name v12)
To a solution of (R)-(+)-α,α-diphenyl-2-pyrrolidinemethanol (59.9 mg, 0.24 mmol) in THF (2.8 mL) was added trimethylborate (0.034 mL, 0.31 mmol), and the resultant solution was stirred for 90 minutes. The solution was cooled to 0° C. and N,N-diethylaniline borane (0.4 mL, 2.2 mmol) was added in portions over 30 minutes with stirring continued at 0° C. This solution was added via cannula to a 0° C. solution of di-tert-butyl (2S,2′S)-2,2′-[(1,4-dioxobutane-1,4-diyl)bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)]dipyrrolidine-1-carboxylate (265 mg, 0.28 mmol) in THF (2.8 mL) and then warmed to room temperature and stirred for 16 hours. The solution was cooled to 0° C. and CH3OH (0.09 mL, 2.2 mmol) was added, and the solution was warmed to room temperature and stirred for 2 hours. 1N HCl was added, and the aqueous solution was extracted with EtOAc. The combined extracts were washed with brine, dried (Na2SO4), filtered and concentrated. Purification was run by flash chromatography (0-3% CH3OH/CH2Cl2) to give the title compound (248 mg, 0.26 mmol, 93%).

reactant | (R)-(+)-α,α-diphenyl-2-pyrrolidinemethanol | 0.24 mmol, 59.9 mg | C1(=CC=CC=C1)C(O)([C@@H]1NCCC1)C1=CC=CC=C1 | C17H19NO
reactant | trimethylborate | 0.31 mmol, 0.034 mL | COB(OC)OC | C3H9BO3
reactant | N,N-diethylaniline borane | 2.2 mmol, 0.4 mL | B.C(C)N(C1=CC=CC=C1)CC
reactant | di-tert-butyl (2S,2′S)-2,2′-[(1,4-dioxobutane-1,4-diyl)bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)]dipyrrolidine-1-carboxylate | 0.28 mmol, 265 mg | O=C(CCC(=O)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F | C48H70F2N6O8Si2
reactant | CH3OH | 2.2 mmol, 0.09 mL | CO | CH4O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2.8 mL | C1CCOC1 | C4H8O
solvent | THF | 2.8 mL | C1CCOC1 | C4H8O
product | di-tert-butyl (2S,2′S)-2,2′-{[(1S,4S)-1,4-dihydroxybutane-1,4-diyl]bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)}dipyrrolidine-1-carboxylate | 0.26 mmol, 248 mg, 93% | O[C@@H](CC[C@H](O)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F | C48H74F2N6O8Si2
